US06140501
164 g (1.04 mol) of ethyl piperazinecarboxylate, 156.9 g (1.14 mol) of (2-chloroethoxy)acetamide, 241.7 g (2.28 mol) of sodium carbonate, 1 g of potassium iodide and 200 ml of toluene are introduced into a 2 1 three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. The mixture is brought at the reflux temperature for 3 hours 30. The mixture is allowed to cool to 50° C., and 200 ml of isopropanol are added. The reaction mixture is filtered and the filtration residue is washed with 150 ml of isopropanol. The filtrate is concentrated on a rotary evaporator under reduced pressure. 272.2 g of crude product are obtained, which product is recrystallized from 500 ml of ethyl acetate. 219.2 g (81.6%) of ethyl (2-carbamoylmethoxyethyl)piperazine-1-carboxylate are obtained in the form of a white solid.

reactant | ethyl piperazinecarboxylate | 1.04 mol, 164 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | (2-chloroethoxy)acetamide | 1.14 mol, 156.9 g | ClCCOCC(=O)N | C4H8ClNO2
reactant | sodium carbonate | 2.28 mol, 241.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | potassium iodide | 1 g | [I-].[K+]
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | ethyl (2-carbamoylmethoxyethyl)piperazine-1-carboxylate | 219.2 g, 81.6% | C(N)(=O)COCCC1N(CCNC1)C(=O)OCC | C11H21N3O4
